US04789675
In a manner similar to that of Reference Example 5, 5,6,7,8-tetrahydro-1-nitro-2-naphthol was allowed to react with methyl 2,5-dibromovalerate to give methyl 5-bromo-2(5,6,7,8-tetrahydro-1-nitro-2-naphthyloxy)valerate, which was then allowed to react, in a manner similar to that of Reference Example 8, with 1-(4-fluorophenyl)piperazine to obtain methyl 5-[4-(4-fluorophenyl)-1-piperazinyl]-2-(5,6,7,8-tetrahydro-1-nitro-2-naphthyloxy)valerate as an oily product. The overall yield was 65.1%. NMR(CDCl3)δ: 1.55-2.17(8H,m), 2,41(2H,5,J=7.2 Hz), 2.52-2.81(8H,m), 2.96-3.14(4H,m), 3.72(3H,s), 4.67(1H,t,J=6 Hz), 6.55-7.11 (6H,m)

reactant | 5,6,7,8-tetrahydro-1-nitro-2-naphthol | [N+](=O)([O-])C1=C(C=CC=2CCCCC12)O | C10H11NO3
reactant | methyl 2,5-dibromovalerate | BrC(C(=O)OC)CCCBr | C6H10Br2O2
product | methyl 5-bromo-2(5,6,7,8-tetrahydro-1-nitro-2-naphthyloxy)valerate | BrCCCC(C(=O)OC)OC1=C(C=2CCCCC2C=C1)[N+](=O)[O-] | C16H20BrNO5
